US07652022B2
(4-Hydroxy-3-methyl-phenyl)-carbamic acid benzyl ester (Compound of Stage 156.4)
4-Amino-2-methyl-phenol (717 mg, 5.8 mmol) and benzyloxycarbonyl chloride (1.09 g, 6.4 mmol) are stirred in a suspension of AcOEt/concentrated Na2CO3 solution (50 mL/50 mL) for 7 h. The organic phase is concentrated under reduced pressure and flash chromatographed (silica gel, 3.8×66 cm, AcOEt/hexane=1:3): M+H=257.9; HPLC (System 1): 5.43 min.

reactant | 4-Amino-2-methyl-phenol | 5.8 mmol, 717 mg | NC1=CC(=C(C=C1)O)C | C7H9NO
reactant | benzyloxycarbonyl chloride | 6.4 mmol, 1.09 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | AcOEt | 50 mL | CCOC(=O)C | C4H8O2
product | (4-Hydroxy-3-methyl-phenyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC(=C(C=C1)O)C)=O | C15H15NO3
